US08106215B2
Benzofuran-4-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone with benzofuran-4-carboxylic acid (M. A. Eissenstat et al. J. Med. Chem. 1995, 38, 3094-3105).

reactant | [(1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]oct-3-yl]-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)C | C21H27N3OS
reactant | benzofuran-4-carboxylic acid | O1C=CC=2C1=CC=CC2C(=O)O | C9H6O3
product | Benzofuran-4-carboxylic acid-(1S,2S,5R)-[7-methyl-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | CC1C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C=1C=CC=C2C1C=CO2)C(=O)C=2N=C(SC2C=2C=C(C=CC2)C)C | C30H31N3O3S
